US05484804
A solution of phenylmagnesium bromide (prepared starting from 3.14 g of bromobenzene and 0.48 [lacuna] of magnesium in 30 cm3 of ether) is added to a suspension of 4.09 g of (3aRS,7aRS)-7,7-diphenyl-2-phenylacetylperhydroisoindol-4-one in 50 cm3 of tetrahydrofuran. The reaction mixture is stirred at 25° C. for 1 hour and then heated under reflux for 2.5 hours, cooled and treated with 150 cm3 of a saturated solution of ammonium chloride. The organic phase is washed with water (2×100 cm3). The aqueous phases are extracted with 100 cm3 of ethyl acetate. The combined organic phases are washed with 100 cm3 of a saturated solution of sodium chloride, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized in 30 cm3 of acetonitrile to give 2.9 g of (3aRS,4RS,7aRS)-2-phenylacetyl- 4,7,7-triphenylperhydroisoindol-4-ol in the form of white crystals which melt at 270° C.

reactant | phenylmagnesium bromide | 30 cm3, 3.14 g | C1(=CC=CC=C1)[Mg]Br
reactant | magnesium | [Mg] | Mg
reactant | (3aRS,7aRS)-7,7-diphenyl-2-phenylacetylperhydroisoindol-4-one | 4.09 g | C1(=CC=CC=C1)C1(CCC(C2CNC(C12)C(CC1=CC=CC=C1)=O)=O)C1=CC=CC=C1 | C28H27NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | (3aRS,4RS,7aRS)-2-phenylacetyl- 4,7,7-triphenylperhydroisoindol-4-ol | 2.9 g | C1(=CC=CC=C1)CC(=O)C1NCC2C(CCC(C12)(C1=CC=CC=C1)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C34H33NO2
